data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
1543,1703,[CH3:12][NH:13][C:14](=[O:15])[C:16](=[O+:17][C-:18]([C:19]([CH3:20])=[O:21])[C:22]([CH3:23])=[O:24])[C:25]([CH3:26])=[O:27].[CH3:1][O:2][C:3](=[O:4])[C:5]1=[CH:6][CH:7]2[CH:8]=[CH:9][CH:10]1[O:11]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]12[CH:6]([CH:7]3[CH:8]=[CH:9][CH:10]1[O:11]3)[C:16]([C:14]([NH:13][CH3:12])=[O:15])([C:25]([CH3:26])=[O:27])[O:17][C:18]2([C:19]([CH3:20])=[O:21])[C:22]([CH3:23])=[O:24],water,298.15,9.08037926174799,-51.270491992794064
1189,1293,[Br:1][C:2]1=[C:3]([c:4]2[cH:5][cH:6][cH:7][cH:8][cH:9]2)[CH:10]2[CH:11]=[CH:12][CH:13]1[O:14]2.[CH3:15][C:16]#[N+:17][CH-:18][C:19](=[O:20])[O:21][CH3:22]>>[Br:1][C:2]1=[C:3]([c:4]2[cH:5][cH:6][cH:7][cH:8][cH:9]2)[CH:10]2[CH:11]3[CH:12]([CH:13]1[O:14]2)[C:16]([CH3:15])=[N:17][CH:18]3[C:19](=[O:20])[O:21][CH3:22],water,298.15,12.366189255060576,-59.00114699337461
1284,1405,[CH3:12][NH:13][C:14](=[O:15])[C-:16]([N+:17]#[C:18][C:19]([CH3:20])=[O:21])[C:22](=[O:23])[NH:24][CH3:25].[CH3:1][C:2]1([CH3:3])[C:4]#[C:5][CH:6]([F:7])[CH2:8][CH2:9][CH2:10][CH2:11]1>>[CH3:1][C:2]1([CH3:3])[C:4]2=[C:5]([CH:6]([F:7])[CH2:8][CH2:9][CH2:10][CH2:11]1)[C:18]([C:19]([CH3:20])=[O:21])=[N:17][C:16]2([C:14]([NH:13][CH3:12])=[O:15])[C:22](=[O:23])[NH:24][CH3:25],water,298.15,16.59141641304625,-59.14928516242976
1370,1507,[CH3:15][O:16][C:17](=[O:18])[c-:19]1[c:20](=[O:21])[o:22][c:23]([CH3:24])[n+:25]1[CH3:26].[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]([CH3:8])=[O:9])[CH:10]2[CH:11]=[CH:12][CH:13]1[O:14]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]([CH3:8])=[O:9])[CH:10]2[CH:11]3[CH:12]([CH:13]1[O:14]2)[C:19]1([C:17]([O:16][CH3:15])=[O:18])[C:20](=[O:21])[O:22][C:23]3([CH3:24])[N:25]1[CH3:26],water,298.15,32.41461058857898,-8.564967194716225
4087,4680,[CH3:9][NH:10][C:11](=[O:12])[CH-:13][N+:14]([CH3:15])=[CH:16][c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1.[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]/[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@H:4]1[C@H:5]([C:6](=[O:7])[O-:8])[CH:13]([C:11]([NH:10][CH3:9])=[O:12])[N:14]([CH3:15])[CH:16]1[c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1,water,298.15,8.1508127688878,-35.57069371121627
1882,2087,[CH3:12][O:13][C:14](=[O:15])[C:16]([CH3:17])=[NH+:18][C-:19]([CH3:20])[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1.[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([Br:6])[CH:7]2[CH:8]=[CH:9][CH:10]1[O:11]2>>[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([Br:6])[CH:7]2[CH:8]3[CH:9]([CH:10]1[O:11]2)[C:16]([C:14]([O:13][CH3:12])=[O:15])([CH3:17])[NH:18][C:19]3([CH3:20])[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1,water,298.15,16.772825387098308,-37.78206747133038
2415,2683,[CH3:16][NH:17][C:18](=[O:19])[C:20](=[O+:21][C-:22]([C:23]#[N:24])[C:25](=[O:26])[O:27][CH3:28])[C:29]([CH3:30])=[O:31].[CH3:1][O:2][C:3](=[O:4])[C:5]1([F:6])[C:7]#[C:8][C:9]([Cl:10])([Cl:11])[CH2:12][CH2:13][CH2:14][CH2:15]1>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([F:6])[C:7]2=[C:8]([C:9]([Cl:10])([Cl:11])[CH2:12][CH2:13][CH2:14][CH2:15]1)[C:20]([C:18]([NH:17][CH3:16])=[O:19])([C:29]([CH3:30])=[O:31])[O:21][C:22]2([C:23]#[N:24])[C:25](=[O:26])[O:27][CH3:28],water,298.15,7.973476987524147,-67.67136814375345
431,473,[CH3:13][C:14](=[O:15])[CH:16]=[N+:17]([CH3:18])[CH-:19][C:20]#[N:21].[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([CH3:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]12[C:6]([CH3:7])([CH:8]3[CH:9]=[CH:10][CH:11]1[O:12]3)[CH:16]([C:14]([CH3:13])=[O:15])[N:17]([CH3:18])[CH:19]2[C:20]#[N:21],water,298.15,15.237480782937071,-28.71008152517328
890,963,[CH3:12][NH:13][C:14](=[O:15])[C:16]#[N+:17][N-:18][C:19](=[O:20])[NH:21][CH3:22].[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([Cl:6])[CH:7]2[CH2:8][CH2:9][CH:10]1[CH2:11]2>>[CH3:1][C:2](=[O:3])[C:4]12[C:5]([Cl:6])([CH:7]3[CH2:8][CH2:9][CH:10]1[CH2:11]3)[C:16]([C:14]([NH:13][CH3:12])=[O:15])=[N:17][N:18]2[C:19](=[O:20])[NH:21][CH3:22],water,298.15,26.383098367766124,-46.22835019837307
3000,3352,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][CH:8]=[N+:9]([CH3:10])[CH-:11][C:12]#[N:13]>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[CH:8]([CH3:7])[N:9]([CH3:10])[CH:11]1[C:12]#[N:13],water,298.15,11.629205891736149,-21.38043392294751
3612,4123,[CH3:6][NH:7][C:8](=[O:9])[C-:10]([NH+:11]=[C:12]([CH3:13])[CH3:14])[C:15](=[O:16])[NH:17][CH3:18].[NH2+:1]=[C:2]([NH2:3])[NH:4][CH3:5]>>[NH2+:1]1[C:2]([NH2:3])([NH:4][CH3:5])[C:12]([CH3:13])([CH3:14])[NH:11][C:10]1([C:8]([NH:7][CH3:6])=[O:9])[C:15](=[O:16])[NH:17][CH3:18],water,298.15,49.4512473391461,27.346483846780465
2385,2650,[CH3:16][NH:17][C:18](=[O:19])[C:20]([C:21]#[N:22])=[NH+:23][C-:24]([C:25]#[N:26])[C:27]#[N:28].[CH3:1][NH:2][C:3](=[O:4])[C:5]1([Br:6])[C:7]#[C:8][C:9]([Cl:10])([Cl:11])[CH2:12][CH2:13][CH2:14][CH2:15]1>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1([Br:6])[C:7]2=[C:8]([C:9]([Cl:10])([Cl:11])[CH2:12][CH2:13][CH2:14][CH2:15]1)[C:24]([C:25]#[N:26])([C:27]#[N:28])[NH:23][C:20]2([C:18]([NH:17][CH3:16])=[O:19])[C:21]#[N:22],water,298.15,22.6459638977798,-26.20057143277469
